US07678798B2
4-(Trifluoromethyl)-6,6a-dihydro-1aH-indeno[1,2-b]oxirene
To a solution of 6-(trifluoromethyl)-1H-indene (1.1 g, 6 mmol) in anhydrous dichloromethane (80 mL) at −78° C. was added a 5.5 M solution of tert-butyl hydroperoxide in n-decane (1.3 mL) followed by titanium tetrachloride (0.79 mL, 7.2 mmol). After being stirred at −78° C. for 1 h, the resulting brown solution was quenched with a mixture of Et2O/saturated Na2SO3 solution. The mixture was stirred at ambient temperature for 1 h to give a colorless solution. The organic layer was separated and washed with brine, dried over MgSO4 and concentrated to give the crude product (1.2 g) as a solid. LC/MS calculated for C10H7F3O: (M+H)+ 201; found 201.0.

reactant | 6-(trifluoromethyl)-1H-indene | 6 mmol, 1.1 g | FC(C1=CC=C2C=CCC2=C1)(F)F | C10H7F3
reactant | tert-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | n-decane | 1.3 mL | CCCCCCCCCC | C10H22
catalyst | titanium tetrachloride | 7.2 mmol, 0.79 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 4-(Trifluoromethyl)-6,6a-dihydro-1aH-indeno[1,2-b]oxirene | 1.2 g | FC(C1=CC=2CC3C(O3)C2C=C1)(F)F | C10H7F3O
